US06316445B1
Combine (S)-4-benzyl-3-(2-(3,4-dichlorophenyl)pent-4-enoyl)-2-oxazolidinone (13.7 g, 34.0 mol), tetrahydrofuran (300 mL), and water (60 mL). Cool in an ice bath. Add lithium hydroxide hydrate (1.7 g, 71.0 mmol) and an aqueous solution of hydrogen peroxide (12 mL, 30% 140 mmol). After 2 hours, quench by the addition of an aqueous 10% sodium thiosulfate solution (100 mL). Add an aqueous 1 M sodium hydroxide solution and extract twice with diethyl ether. Cool the aqueous layer in an ice bath, acidify with an aqueous concentrated hydrochloric acid solution (about 20 mL), and extract twice with dichloromethane. Combine the organic layers, dry over MgSO4, filter, and evaporate in vacuo to give (S)-2-(3,4-dichlorophenyl)pent-4-enoic acid.

reactant | (S)-4-benzyl-3-(2-(3,4-dichlorophenyl)pent-4-enoyl)-2-oxazolidinone | 34.0 mol, 13.7 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C(CC=C)C1=CC(=C(C=C1)Cl)Cl)=O | C21H19Cl2NO3
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide hydrate | 71.0 mmol, 1.7 g | O.[OH-].[Li+]
reactant | hydrogen peroxide | 140 mmol, 12 mL | OO | H2O2
solvent | water | 60 mL | O | H2O
product | (S)-2-(3,4-dichlorophenyl)pent-4-enoic acid | ClC=1C=C(C=CC1Cl)[C@@H](C(=O)O)CC=C | C11H10Cl2O2
